US05663200
5d) 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-{[p-(2-phenylethyl)phenyl]methyl}dihydrofuran-2-(3H)-one
A solution of 4.4 g (14.53 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one [preparation, see Example 2b)] in 21.4 ml of abs. THF and 2.4 ml of DMPU is treated, at -75° C. and under an N2 atmosphere, with 28 ml of a 1M solution of lithium bis(trimethylsilyl)amide in THF (Aldrich, Steinheim, FRG), and the mixture is subsequently stirred at this temperature for 15 min. A solution of 6.0 g (approximately 80%, 17.5 mmol) of p-(2-phenylethyl)benzyl bromide in 5.4 ml of abs. THF is then added dropwise, and this mixture is thoroughly stirred at -70° C. for 30 min. 5.4 ml of propionic acid are then added at -75° C., followed by 5.4 ml of water. The mixture is warmed to 0° C. and diluted with 150 ml of ethyl acetate; this mixture is then washed with 80 ml of a 10% solution of citric acid, with sat. sodium bicarbonate solution and with saline. The aqueous phases are reextracted 2× with ethyl acetate, and the organic phases are dried over sodium sulfate and evaporated. Column chromatography (SiO2, hexane/ethyl acetate, 3:1) yields the pure title compound: TLC Rf (E)=0.27; tRet (II)=20.8 min; FAB-MS (M-Buten+H)+ =444.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one | 14.53 mmol, 4.4 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-(2-phenylethyl)benzyl bromide | 17.5 mmol, 6.0 g | C1(=CC=CC=C1)CCC1=CC=C(CBr)C=C1 | C15H15Br
reactant | propionic acid | 5.4 ml | C(CC)(=O)O | C3H6O2
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5.4 ml | O | H2O
solvent | DMPU | 2.4 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-{[p-(2-phenylethyl)phenyl]methyl}dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)CCC1=CC=CC=C1 | C32H37NO4
